US07223791B2
A mixture of methyl 4-(5-phenyl-1H-1,2,4-triazol-3-yl)benzoate (0.500 g), 1 M aqueous sodium hydroxide solution (5.4 ml), tetrahydrofuran (6 ml) and methanol (3 ml) was stirred at room temperature for 2 hrs. and heated under reflux for 2 hrs. After cooling, 1 M hydrochloric acid was added to acidify the reaction mixture. The crystals were collected by filtration to give 4-(5-phenyl-1H-1,2,4-triazol-3-yl)benzoic acid (0.380 g, yield 79%). Recrystallization from hexane-tetrahydrofuran gave colorless prism crystals. melting point: >300° C.

reactant | methyl 4-(5-phenyl-1H-1,2,4-triazol-3-yl)benzoate | 0.500 g | C1(=CC=CC=C1)C1=NC(=NN1)C1=CC=C(C(=O)OC)C=C1 | C16H13N3O2
reactant | sodium hydroxide | 1 M, 5.4 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | 4-(5-phenyl-1H-1,2,4-triazol-3-yl)benzoic acid | 0.380 g, yield 79% | C1(=CC=CC=C1)C1=NC(=NN1)C1=CC=C(C(=O)O)C=C1 | C15H11N3O2
